US05514693
The compound 1,4-dihydro-2,6-dimethyl-4- 3-(1H-imidazol-1-yl)phenyl!-3,5-pyridinedicarboxylic acid, diethyl ester (0.1 g) was dissolved in isopropyl alcohol (2 ml) and treated with isopropanolic HCl. The solution was evaporated to dryness and the residue crystallized from ethylacetate/ethanol (3:1) mixture. The salt 1,4-dihydro-2,6-dimethyl-4- 3-(1H-imidazol-1-yl)phenyl!-3,5-pyridinedicarboxylic acid, diethyl ester hydrochloride was obtained in quantitative yield, m.p. 235°-240° C. (dec.).

reactant | 3,5-pyridinedicarboxylic acid, diethyl ester | 0.1 g | N1=CC(=CC(=C1)C(=O)OCC)C(=O)OCC | C11H13NO4
reactant | HCl | Cl | ClH
solvent | isopropyl alcohol | 2 ml | C(C)(C)O | C3H8O
product | 3,5-pyridinedicarboxylic acid, diethyl ester hydrochloride | quantitative yield | Cl.N1=CC(=CC(=C1)C(=O)OCC)C(=O)OCC | InChI=1S/C11H13NO4.ClH/c1-3-15-10(13)8-5-9(7-12-6-8)11(14)16-4-2;/h5-7H,3-4H2,1-2H3;1H
